US05234946
430 mg of ethyl 3-(1,3,4-triazol-1-yl)benzoate [synthesized substantially in accordance with the method described in J. Med. Chem., 5, 383 (1962)] was dissolved in a mixture of 20 ml of tetrahydrofuran and 20 ml of dioxane, and 100 mg of lithium aluminium hydride was added. The mixture was stirred at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure, and the residue was distributed between ethyl acetate and water. The organic layer was separated and dried over anhydrous sodium sulfate. The desiccant was separated by filtration, and the solvent evaporated. The residue was purified by silica gel column chromatography [Wakogel C-200, 20 g; eluting solvent: chloroform/methanol=20/1] to give 240 mg (yield 69%) of 1(3-hydroxymethylphenyl)-1,3,4-triazole.

reactant | ethyl 3-(1,3,4-triazol-1-yl)benzoate | 430 mg | N1(C=NN=C1)C=1C=C(C(=O)OCC)C=CC1 | C11H11N3O2
reactant | lithium aluminium hydride | 100 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 1(3-hydroxymethylphenyl)-1,3,4-triazole | 240 mg, yield 69% | OCC=1C=C(C=CC1)N1C=NN=C1 | C9H9N3O
